US07923450B2
d) 2-[3-Methoxy-4-(4-methyl-imidazol-1-yl)-phenylamino]-5,6,7,8-tetrahydro-quinazoline-8-carboxylic acid dimethylamide
The title compound was prepared from 2-[1-dimethylamino-methylidene]-6-(morpholine-4-carbonyl)-cyclohexanone (25 mg, 0.11 mmol) and N-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-guanidine dinitrate (31 mg, 0.084 mmol) using in analogous manner the procedure described in example 45b). Obtained as a white solid (23 mg, 67%). MS ISP (m/e): 407.4 (100) [(M+H)+]. mp 150-152° C.

reactant | 2-[1-dimethylamino-methylidene]-6-(morpholine-4-carbonyl)-cyclohexanone | 0.11 mmol, 25 mg | CN(C=C1C(C(CCC1)C(=O)N1CCOCC1)=O)C | C14H22N2O3
reactant | N-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-guanidine dinitrate | 0.084 mmol, 31 mg | [N+](=O)(O)[O-].[N+](=O)(O)[O-].COC=1C=C(C=CC1N1C=NC(=C1)C)NC(=N)N
product | 2-[3-Methoxy-4-(4-methyl-imidazol-1-yl)-phenylamino]-5,6,7,8-tetrahydro-quinazoline-8-carboxylic acid dimethylamide | CN(C(=O)C1CCCC=2C=NC(=NC12)NC1=CC(=C(C=C1)N1C=NC(=C1)C)OC)C | C22H26N6O2
